data/rdb19/train.csv
rxn,smiles,ea
3632,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],58.01939090207452
5019,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[H:25])([H:5])([H:6])[H:7],38.57792177126976
3242,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])[H:8].[H:9][C:23]([C:22]([C:21]([H:30])([H:31])[H:32])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:24])[H:25],21.378047376521863
1010,[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([O:15][C:16](=[O:17])[C:18](=[C:19]([H:24])[H:25])[C:20]([H:26])([H:27])[H:28])([H:21])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:22])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],20.969578374177217
3384,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15]([H:16])=[N:17][C:18](=[O:19])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:25])([H:5])([H:6])[H:7],45.60189536458347
4954,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:15]([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9],34.11578938324237
527,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([N:9]([C:10](=[O:11])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:1]([O:2][O:3][H:14])([H:4])([H:5])[H:6].[C:7](=[C:8][N:9]([C:10](=[O:11])[H:16])[H:15])([H:12])[H:13],31.52489785238868
3299,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:5])([H:6])[H:7],23.452668976591667
1365,[C:10]([C:11]([O:12][C:13](=[O:14])[C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11]([O:12][C:13](=[O:14])[C:15]([C:16]([H:26])([H:27])[H:28])=[C:17]([H:18])[H:19])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2]([O:3][H:25])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],30.358256267674733
494,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:4])([H:5])[H:6].[C:7]([H:14])([H:15])[H:16],69.02572454401525
5095,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([H:14])[H:15])([H:11])([H:12])[H:13].[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:16])[C:27]([C:26]([C:25]([H:36])([H:37])[H:38])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:28])[H:29],64.37770983454539
3792,[C:13]([O:14][O:15])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])[H:7].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])([H:9])[O:15][O:14][C:13]([H:16])([H:17])[H:18],68.4077464347647
